### PR TITLE
2-truncated quasi-categories

### LINKED ISSUE #103: 2-truncated quasi-categories
Define a 2-truncated quasi-category (1.3.1) and prove that the 2-truncation of a quasi-category is a 2-truncated quasi-category (1.3.2).

### PR DESCRIPTION
**Pull request by juliankom**
This PR defines a new structure `Quasicategory₂` which follows closely Definition 1.3.1 of the [blueprint](https://emilyriehl.github.io/infinity-cosmos/blueprint/sec-homotopy-category.html). A proof of Lemma 1.3.2 is given, namely that the 2-truncation of a `Quasicategory` is a `Quasicategory₂`. 

The (3, 1)- and (3, 2)-filling properties get their own separate structures (`horn3[1/2].horn_data` and `horn3[1/2].filling_simplex`) to be able to more elegantly state and prove lemmas relating these properties to filling 3-horns. This is done within the `TwoTruncated.lean` file.

The proof is complete up to the following: To use the definition of a `Quasicategory`, one needs to construct maps from inner horns given the combinatorial data of `Quasicategory₂`. In this PR, I do this using universal properties of 2- and 3-horns, but I do not prove the universal properties themselves, as this is being worked on by Joël Riou, see e.g. [this PR](https://github.com/leanprover-community/mathlib4/pull/23872). This means that in the future, the `sorry`s concerning these universal properties should be filled in once that PR goes through. The construction of these diagrams is done in the `Horn.lean` file.

Moreover, I am opening this PR as an early draft for comments, since this is my first time contributing to this library. There are still various TODOs that I am still working on, and certainly some definitions and lemmas will need to be put into appropriate files and renamed.

Closes #103

### CODE REVIEW

**Comment by emilyriehl** [comment]
We're not as picky as mathlib but to streamline eventual PRs into mathlib, it's probably good to follow their style guides regarding terming naming: https://leanprover-community.github.io/contribute/naming.html

In particular, I believe your structures like `horn_data` should be in upper camel case as `HornData`.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 1]
```diff
@@ -0,0 +1,394 @@
...
+      stdSimplex.yonedaEquiv_map]
+
+end aux_lemmas
+
+section horn_from_horn_data21
+open SimplexCategory
+open horn₂₁
+namespace horn₂₁
+
+def path_edge₀ {X : SSet} (f : Path X 2) : Δ[1] ⟶ X := yonedaEquiv.symm (f.arrow 1)
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:135]: Defs like this should be lower camel case. Since the input data is a path rather than a 2-simplex something like `pathEdge₀ f := yonedaEquiv.symm (f.arrow 0)` feels more intuitive to me but feel free to disagree.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 2]
```diff
@@ -0,0 +1,394 @@
...
+def path_edge₂ {X : SSet} (f : Path X 2) : Δ[1] ⟶ X := yonedaEquiv.symm (f.arrow 0)
+
+def path_edges_comm {X : SSet} {f : SSet.Path X 2} : pt₁ ≫ path_edge₀ f = pt₀ ≫ path_edge₂ f := by
+    dsimp only [pt₀, pt₁, path_edge₀, path_edge₂]
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:139]: More trivial style comments: these three lines should only be indented once. (Once for proofs, twice for theorem/def statements.)

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean (hunk 1 above)
Comment (emilyriehl) [reply InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:135]: Also if you turn the `def` into an `abbrev` then you can cut the dsimps on line 139.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 3]
```diff
@@ -0,0 +1,394 @@
...
+  := horn₃₁.isMulticoeq.fac (multicofork_from_data horn_data) (.right R₂)
+
+lemma mcofork_up3 : horn₃₁.ι₃ ≫ (horn_from_data horn_data) = yonedaEquiv.symm horn_data.σ₃
+  := horn₃₁.isMulticoeq.fac (multicofork_from_data horn_data) (.right R₃)
+
+/-- Given a 3-simplex `g : Δ[3] → X` extending the map `horn_data : Λ[3, 1].toSSet → X` along
+the inclusion Λ[3, 1] → Δ[3], there exists a 2-simplex satisfying the (3, 1)-filling property
+(namely, `yonedaEquiv g`).
+-/
+def fill31_from_horn_extension (g : Δ[3] ⟶ X) (h : horn_from_data horn_data = Λ[3, 1].ι ≫ g)
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:222]: I think this formatting for the proof is more readable (and likely could be improved further):
```
def fill31_from_horn_extension (g : Δ[3] ⟶ X) (h : horn_from_data horn_data = Λ[3, 1].ι ≫ g)
  : ∃ σ : ((truncation 2).obj X) _⦋2⦌₂, Truncated.fill31.filling_simplex horn_data σ := by 
  let σ := X.map (SimplexCategory.δ 1).op (yonedaEquiv g)
  use σ
  exact {
    edge₀ := by 
      have arr : f.arrow 2 = (f.interval 1 2).arrow 1 := rfl
      rw [arr, ← horn_data.h₀, Truncated.spine_arrow, mkOfSucc_2_1]
      dsimp only [truncation, SimplicialObject.truncation, inclusion, whiskeringLeft_obj_obj, len_mk,
        id_eq, Functor.comp_obj, Functor.op_obj, fullSubcategoryInclusion.obj, Nat.reduceAdd,
        Fin.isValue, tr, Functor.comp_map, Functor.op_map, Quiver.Hom.unop_op,
        fullSubcategoryInclusion.map]
      have : yonedaEquiv.symm horn_data.σ₀ = stdSimplex.δ 0 ≫ g
          := by rw [← mcofork_up0 horn_data, h, ← Category.assoc, horn₃₁.incl₀]
      rw [← FunctorToTypes.map_comp_apply, ← op_comp, push_yonedaEquiv _ horn_data.σ₀ this]
      rfl
    edge₁ := by
      dsimp only [truncation, SimplicialObject.truncation, inclusion, whiskeringLeft_obj_obj, len_mk,
      id_eq, Functor.comp_obj, Functor.op_obj, fullSubcategoryInclusion.obj, Nat.reduceAdd,
      Fin.isValue, tr, Functor.comp_map, Functor.op_map, Quiver.Hom.unop_op,
      fullSubcategoryInclusion.map]
      have : yonedaEquiv.symm horn_data.σ₂ = stdSimplex.δ 2 ≫ g
          := by rw [← mcofork_up2 horn_data, h, ← Category.assoc, horn₃₁.incl₂]
      rw [← FunctorToTypes.map_comp_apply, ← op_comp, push_yonedaEquiv _ horn_data.σ₂ this]
      apply congr_fun
      apply Prefunctor.congr_map
      apply (Opposite.op_inj_iff _ _).2
      symm; exact @SimplexCategory.δ_comp_δ 1 1 1 (by norm_num)
    edge₂ := by 
      dsimp only [truncation, SimplicialObject.truncation, inclusion, whiskeringLeft_obj_obj, len_mk,
      id_eq, Functor.comp_obj, Functor.op_obj, fullSubcategoryInclusion.obj, Nat.reduceAdd,
      Fin.isValue, tr, Functor.comp_map, Functor.op_map, Quiver.Hom.unop_op,
      fullSubcategoryInclusion.map]
      have : yonedaEquiv.symm horn_data.σ₃ = stdSimplex.δ 3 ≫ g
          := by rw [← mcofork_up3 horn_data, h, ← Category.assoc, horn₃₁.incl₃]
      rw [← FunctorToTypes.map_comp_apply, ← op_comp, push_yonedaEquiv _ horn_data.σ₃ this]
      apply congr_fun
      apply Prefunctor.congr_map
      apply (Opposite.op_inj_iff _ _).2
      symm; exact @SimplexCategory.δ_comp_δ 1 1 2 (by apply Fin.le_iff_val_le_val.2; norm_num)
  }  
```

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean (hunk 1 above)
Comment (juliankom) [reply InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:135]: > Defs like this should be lower camel case. Since the input data is a path rather than a 2-simplex something like `pathEdge₀ f := yonedaEquiv.symm (f.arrow 0)` feels more intuitive to me but feel free to disagree.

I agree that this is numbering is more intuitive. I will make sure that usage is consistent.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 4]
```diff
@@ -0,0 +1,394 @@
...
+  fill32 {f : Path X 3} (a : fill32.horn_data f) : ∃ σ₁ : X _⦋2⦌₂, fill32.filling_simplex a σ₁
+
+end Truncated
+
+-- TODO: this section contains 3 lemmas moving application of yonedaEquiv around.
+-- some of these might be already in the library under a different name,
+-- and the proofs could probably be greatly simplified
+section aux_lemmas
+
+lemma map_yonedaEquiv {n m : ℕ} {X : SSet} (f : .mk n ⟶ .mk m) (g : Δ[m] ⟶ X) : X.map f.op (yonedaEquiv g)
```
[the remark this answers is not in the document]
Comment (juliankom) [reply InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:95]: Thanks, I have checked out the mathlib linebreak conventions and will update everywhere.

**Comment by juliankom** [comment]
I have now ported everything to the `CompStruct` formalism and documented most (but not all) relevant definitions and lemmas. Modulo moving/renaming some stuff and adhering to code standards (although I hope I did an okay job at this), this should now be complete.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 5]
```diff
@@ -0,0 +1,394 @@
...
+and `fill32.horn_data` and `fill32.filling_simplex` for the details of (3, 2)-filling.
+-/
+structure Quasicategory₂ (X : Truncated 2) where
+  fill21 (f : Path X 2) : ∃ (σ : X _⦋2⦌₂), spine X 2 _ σ = f
+  fill31 {f : Path X 3} (a : fill31.horn_data f) : ∃ σ₁ : X _⦋2⦌₂, fill31.filling_simplex a σ₁
+  fill32 {f : Path X 3} (a : fill32.horn_data f) : ∃ σ₁ : X _⦋2⦌₂, fill32.filling_simplex a σ₁
+
+end Truncated
+
+-- TODO: this section contains 3 lemmas moving application of yonedaEquiv around.
```
[the remark this answers is not in the document]
Comment (juliankom) [reply InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean]: Because I don't want to deal with a mathlib PR right now, I moved this stuff into `StdSimplex.lean`. I (or someone else) might try to PR into mathlib at some point in the future.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 6]
```diff
@@ -0,0 +1,158 @@
+import Mathlib.AlgebraicTopology.SimplicialSet.Horn
+
+open Simplicial SSet CategoryTheory
+
+namespace SSet
+
+def horn_face_incl {n : ℕ} (i : Fin (n + 2)) (j : Fin (n + 2)) (h : j ≠ i)
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean:7]: `hornFaceIncl`

File: InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 7]
```diff
@@ -0,0 +1,158 @@
...
+
+/-!
+Statements about the pushout
+Δ[0]  →  Δ[1]
+ ↓        ↓
+Δ[1]  → Λ[2, 1] .
+-/
+namespace horn₂₁
+
+def ι₀ : Δ[1] ⟶ Λ[2, 1] := horn_face_incl 1 0 (by norm_num)
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean:21]: Maybe better as abbreviations?

File: InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 8]
```diff
@@ -0,0 +1,158 @@
...
+
+abbrev pt₀ : Δ[0] ⟶ Δ[1] := stdSimplex.map (SimplexCategory.δ 0)
+abbrev pt₁ : Δ[0] ⟶ Δ[1] := stdSimplex.map (SimplexCategory.δ 1)
+
+lemma sq_commutes : pt₁ ≫ ι₀ = pt₀ ≫ ι₂ := by
+  apply (instMonoι Λ[2, 1]).right_cancellation
+  symm
+  exact @stdSimplex.δ_comp_δ _ _ _ 0 1 (by norm_num)
+
+def horn_pushout : Limits.PushoutCocone pt₁ pt₀
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean:35]: `pushout` (since you're in the horn namespace)

File: InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 9]
```diff
@@ -0,0 +1,158 @@
...
+  := Limits.PushoutCocone.mk ι₀ ι₂ sq_commutes
+
+-- TODO Joel's PRs (see e.g. mathlib PR #23872) proves this and more
+def horn_is_pushout : Limits.IsColimit horn_pushout := by sorry
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean:39]: `pushoutIsPushout`

File: InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 10]
```diff
@@ -0,0 +1,158 @@
...
+
+def J : Limits.MultispanShape where
+    L := L
+    R := R
+    fst p := p.val.1
+    snd p := p.val.2
+
+open SimplexCategory
+
+def multispan_index : Limits.MultispanIndex J SSet where
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean:71]: All these defs should be lowerCamelCase.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 11]
```diff
@@ -0,0 +1,158 @@
...
+abbrev ι₃ : Δ[2] ⟶ Λ[3, 1] := horn_face_incl 1 3 (by decide)
+
+lemma incl₀ : ι₀ ≫ Λ[3, 1].ι = stdSimplex.δ 0 := rfl
+lemma incl₂ : ι₂ ≫ Λ[3, 1].ι = stdSimplex.δ 2 := rfl
+lemma incl₃ : ι₃ ≫ Λ[3, 1].ι = stdSimplex.δ 3 := rfl
+
+/--
+Index types for the left and right coproducts in the coequalizer.
+-/
+def R := { x : Fin 4 // x ≠ 1 }
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean:60]: I'm not sure what the best conventions are for local names like this. Let's not stress now but perhaps revisit later.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 12]
```diff
@@ -0,0 +1,433 @@
...
+
+end Truncated
+
+namespace horn₂₁
+open Truncated (Edge edge_map CompStruct truncEquiv trunc_map trunc_map')
+
+variable {S : SSet} {x₀ x₁ x₂ : ((truncation 2).obj S) _⦋0⦌₂}
+  (e₀₁ : Edge x₀ x₁) (e₁₂ : Edge x₁ x₂)
+
+def path_edges_comm : pt₁ ≫ edge_map e₁₂ = pt₀ ≫ edge_map e₀₁ := by
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:103]: Should be a theorem or lemma not a def.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 13]
```diff
@@ -0,0 +1,433 @@
...
+  . exact e₁₂.h₀
+  . symm; exact e₀₁.h₁
+
+/--
+Given the data of two consecutive edges `e₀₁` and `e₁₂`, construct a map
+`Λ[2, 1].toSSet ⟶ S` which restricts to maps `Δ[1] ⟶ S` corresponding
+to the two edges (this is made precise in the lemmas `horn_from_edges_restr₀` and
+`horn_from_edges_restr₁`).
+-/
+def horn_from_edges : Λ[2, 1].toSSet ⟶ S :=
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:116]: `fromEdges` (since you're in the horn21 namespace)

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 14]
```diff
@@ -0,0 +1,433 @@
...
+lemma horn_from_edges_restr₁ : ι₂ ≫ (horn_from_edges e₀₁ e₁₂) = yonedaEquiv.symm e₀₁.simplex :=
+  Limits.PushoutCocone.IsColimit.inr_desc horn_is_pushout
+    (edge_map e₁₂) (edge_map e₀₁) (path_edges_comm e₀₁ e₁₂)
+
+/--
+Given a map `Δ[2] ⟶ S` extending the horn given by `horn_from_edges`, construct
+and edge `e₀₂` such that `e₀₁`, `e₁₂`, `e₀₂` bound a 2-simplex of `S` (this is witnessed
+by `CompStruct e₀₁ e₁₂ e₀₂`).
+-/
+def fill21_from_horn_extension
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:135]: lowerCamelCase

File: InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean [hunk 15]
```diff
@@ -0,0 +1,433 @@
...
+    rw [← f₁.h₀₂, trunc_map, trunc_map', ← FunctorToTypes.map_comp_apply, ← op_comp,
+      push_yonedaEquiv (horn_extension_face₁ f₃ f₀ f₁ comm), this]
+
+end horn₃₂
+
+open horn₂₁ (fill21_from_horn_extension)
+open horn₃₁ (fill31_from_horn_extension)
+open horn₃₂ (fill32_from_horn_extension)
+
+-- TODO should this be SSet namespace or SSet.Truncated?
```
Comment (emilyriehl) [inline InfinityCosmos/ForMathlib/AlgebraicTopology/Quasicategory/TwoTruncated.lean:413]: I think the `SSet.Truncated` namespace.

File: InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean (hunk 11 above)
Comment (juliankom) [reply InfinityCosmos/ForMathlib/AlgebraicTopology/SimplicialSet/Horn.lean:60]: Since the whole `Horn` file will have to be eventually revisited/reworked to complete the pushout and coequalizer sorries, I would suggest to leave it as is for now.

**Comment by juliankom** [comment]
I updated the naming as suggested. Also, I split off some of the two lemmas about objects of `Truncated m` into the `SimplicialSet.Basic` file, where I believe they belong.

**Comment by juliankom** [comment]
Note that I bumped mathlib while working on this project. Maybe that should be a commit on the `main `branch before merging this.

**Comment by juliankom** [comment]
This PR now matches `main` mathlib version and builds.
